US08052963B2
[(6-Hydroxy-4-oxo-4H-chromen-3-yl)hydroxymethyl]phosphonic acid (10 mmol), prepared in accordance with Example 2d), hydroiodic acid (57%) (38 mmol) and red phosphorus (20 mmol) are added to acetic acid (100 ml). This mixture is heated at 110-115° C. until the reaction is complete. The hot reaction mixture is subsequently filtered, and the residue is washed twice with 10 ml of hot acetic acid. The filtrate is decolourised by addition of aqueous Na2SO3 solution. A solid precipitates at temperatures of 6 to 10° C. After filtration, the solid is washed with a little cold water and dried, giving [(6-hydroxy-4-oxo-4H-chromen-3-yl)methyl]phosphonic acid.

reactant | [(6-Hydroxy-4-oxo-4H-chromen-3-yl)hydroxymethyl]phosphonic acid | 10 mmol | OC=1C=C2C(C(=COC2=CC1)C(O)P(O)(O)=O)=O | C10H9O7P
reactant | hydroiodic acid | 38 mmol | I | HI
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | [(6-hydroxy-4-oxo-4H-chromen-3-yl)methyl]phosphonic acid | OC=1C=C2C(C(=COC2=CC1)CP(O)(O)=O)=O | C10H9O6P
